US07968558B2
6-nitro-2-(1,3-benzodioxol-5-yl)-quinazoline
To a suspension of 5-nitro-2-amino-benzylamine hydrochloride (31 g, 0.152 mol) in dichloromethane (DCM) (450 ml) was added at 0° C. TEA (52.6 ml, 0.38 mol) and a solution of piperonyloyl chloride (27.3 g, 0.16 mol) in DCM (80 ml). The mixture was stirred for 2 hours at r.t. The solvent was removed under reduced pressure and the residue was triturated with ethanol/water 1/9 and then with diisopropyl ether. The obtained solid was dried in vacuum and suspended in toluene (900 ml) and POCl3 (670 ml). The mixture was heated at reflux for 2 hours and after the removal of solvent the residue was triturated with water/ammonia, washed with water and dried over P2O5. A mixture of the obtained solid and chloranile (32.7 g, 0.129 mol) in toluene (500 ml) was heated at reflux for 2 hours. The mixture was concentrated under reduced pressure and the residue was triturated with NaOH 1M, washed with water and with methanol. The obtained solid was dried in vacuum (37 g, 83% yield). C15H9N3O4, MW=295.26. mp: 220-222° C.

reactant | 5-nitro-2-amino-benzylamine hydrochloride | 0.152 mol, 31 g | Cl.[N+](=O)([O-])C=1C=CC(=C(CN)C1)N
reactant | piperonyloyl chloride | 0.16 mol, 27.3 g | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
reactant | chloranile | 0.129 mol, 32.7 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
solvent | DCM | 80 ml | ClCCl | CH2Cl2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 6-nitro-2-(1,3-benzodioxol-5-yl)-quinazoline | 83% yield | [N+](=O)([O-])C=1C=C2C=NC(=NC2=CC1)C1=CC2=C(OCO2)C=C1 | C15H9N3O4
